US05250690
2-(4((6-Chloro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(1,1-difluoro-2,2,2-trichloroethoxy)phenyl)propanamide
A solution of 4.35 mmol of 2-(4-((6-chloro-2-quinoxalinyl)oxy)phenoxy)propanoyl chloride (previously prepared from 1.5 g of the corresponding acid) in 15 ml of acetonitrile was added to a mixture prepared from 1.20 g (4.35 mmol) of 4-(1,1-difluoro-2,2,2-trichloroethoxy)aniline, 0.66 g (6.5 mmol) of triethylamine and 10 ml of acetonitrile. The mixture was warmed at reflux for a period of 2.5 hours and then poured over ice and aqueous NaOH added. The resulting precipitate was filtered and dried and then recrystallized from methylcyclohexane. This left 2.2 g (84 percent of theoretical) of the above-named product as a brown solid, m.p. 139°-141° C. (Compound 36)

reactant | 2-(4-((6-chloro-2-quinoxalinyl)oxy)phenoxy)propanoyl chloride | 4.35 mmol | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C17H12Cl2N2O3
reactant | 4-(1,1-difluoro-2,2,2-trichloroethoxy)aniline | 4.35 mmol, 1.20 g | FC(C(Cl)(Cl)Cl)(OC1=CC=C(N)C=C1)F | C8H6Cl3F2NO
reactant | triethylamine | 6.5 mmol, 0.66 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-(4((6-Chloro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(1,1-difluoro-2,2,2-trichloroethoxy)phenyl)propanamide | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)OC(C(Cl)(Cl)Cl)(F)F)C)C=C1 | C25H17Cl4F2N3O4
